US07777038B2
Pyridine (30 ml) and trifluoromethanesulfonic anhydride (25 g) were added with stirring at 0° C. to an anhydrous dichloromethane solution (200 ml) of 5-hydroxy-3,4-dihydro-1H-quinolin-2-one (15.9 g), followed by stirring for 2 hours. The resulting mixture was concentrated under reduced pressure, water was added to the residue, and extraction with dichloromethane was performed. The extract was washed with water, an aqueous potassium hydrogensulfate solution and water in this order, and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was recrystallized from an ethyl acetate-diisopropyl ether mixed solvent to thereby obtain 28 g (yield: 97%) of 5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one as a light brown powder.

reactant | Pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 25 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-hydroxy-3,4-dihydro-1H-quinolin-2-one | 15.9 g | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one | 28 g, yield: 97% | FC(S(=O)(=O)OC1=C2CCC(NC2=CC=C1)=O)(F)F | C10H8F3NO4S
